US06544985B2
A mixture of 3-(2-hydroxymethyl-5-methyl-thiazol-4-yl)-benzoic acid methyl ester (1.05 g), dihydropyrane (0.73 mL) and p-toluenesulfonic acid hydrate (0.07 g) in AcOEt (10 mL) was stirred at 20° C. for 1 h. The solution was diluted with AcOEt, washed with 5% NaHCO3 solution and with brine, dried and evaporated. The residual oil was purified by chromatography on silica gel using AcOEt/hexane (1:3) as eluent to give 3-[5-methyl-4-(tetrahydro-pyran-2-yloxymethyl)-thiazol-4-yl]-benzoic acid methyl ester (1.45 g) as a pale-yellow oil.

reactant | 3-(2-hydroxymethyl-5-methyl-thiazol-4-yl)-benzoic acid methyl ester | 1.05 g | COC(C1=CC(=CC=C1)C=1N=C(SC1C)CO)=O | C13H13NO3S
reactant | dihydropyrane | 0.73 mL | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid hydrate | 0.07 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | AcOEt | 10 mL | CCOC(=O)C | C4H8O2
product | 3-[5-methyl-4-(tetrahydro-pyran-2-yloxymethyl)-thiazol-4-yl]-benzoic acid methyl ester | 1.45 g | COC(C1=CC(=CC=C1)C1(N=CSC1C)COC1OCCCC1)=O | C18H23NO4S
